US05932595
A solution of (R)-N-tert-butoxy-2-valinamido-3-(4-phenoxyphenylsulfonyl)-propionamide (1.6 g) in 1,2-dichloroethane (50 ml) was cooled to -20° C. and bubbled for 15-20 minutes with hydrochloric acid gas in a pressure tube. The flask was then sealed and the mixture stirred for 24 hours. After cooling the tube was cautiously vented and its contents evaporated to yield a gum, which upon trituration with ethyl acetate gave a crude product as a white powder. This product was stirred overnight with 10% methanol/methylene chloride (20 ml) and filtered to remove impurities. This was repeated three times to give (R)-N-hydroxy-2-valinamido-3-(4-phenoxyphenylsulfonyl)-propionamide hydrochloride (760 mg), m.p. 214-217° C.

reactant | (R)-N-tert-butoxy-2-valinamido-3-(4-phenoxyphenylsulfonyl)-propionamide | 1.6 g | C(C)(C)(C)ONC([C@H](CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)NC([C@@H](N)C(C)C)=O)=O | C24H33N3O6S
reactant | methanol methylene chloride | 20 ml | CO.C(Cl)Cl
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | (R)-N-hydroxy-2-valinamido-3-(4-phenoxyphenylsulfonyl)-propionamide hydrochloride | 760 mg | Cl.ONC([C@H](CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)NC([C@@H](N)C(C)C)=O)=O | InChI=1S/C20H25N3O6S.ClH/c1-13(2)18(21)20(25)22-17(19(24)23-26)12-30(27,28)16-10-8-15(9-11-16)29-14-6-4-3-5-7-14;/h3-11,13,17-18,26H,12,21H2,1-2H3,(H,22,25)(H,23,24);1H/t17-,18-;/m0./s1
